US04895860
Step (4) Preparation of 5-Chloro-3-benzofuranone
According to the procedure of M. E. Jung et al., J. Org. Chem., 53, 423 (1988), a solution of diazomethane in ether [prepared from N-methyl-N-nitroso-p-toluenesulfonamide (5.8 g, 0.026 mol) and potassium hydroxide (2.9 g, 0.052 mol) in H2O (7 mL), ethanol (10 mL), and ether (70 mL) utilizing a mini-Diazald® apparatus] was added to 5-chloro-2-methoxybenzoyl chloride (2.0 g, 0.010 mol). The resulting mixture was stirred for 30 minutes, concentrated, and acetic acid (20 mL) was added. After 15 minutes, the mixture was concentrated to give 1.6 g (97%) of the product as an orange solid.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-methyl-N-nitroso-p-toluenesulfonamide | 0.026 mol, 5.8 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)N=O | C8H10N2O3S
reactant | potassium hydroxide | 0.052 mol, 2.9 g | [OH-].[K+]
reactant | Diazald | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | 5-chloro-2-methoxybenzoyl chloride | 0.010 mol, 2.0 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
solvent | ether | CCOCC | C4H10O
solvent | H2O | 7 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ether | 70 mL | CCOCC | C4H10O
product | 5-Chloro-3-benzofuranone | 1.6 g, 97% | ClC=1C=CC2=C(C(CO2)=O)C1 | C8H5ClO2
